US04141991
4-Ferrocenoyl-4-isopropyl-cyclohexene
Prepared from ferrocene, 1-isopropyl-3-cyclohexene-1-carboxylic acid chloride and aluminium chloride in methylene chloride at 0° C. in a manner analogous to that described in Example 1.

reactant | ferrocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | 1-isopropyl-3-cyclohexene-1-carboxylic acid chloride | C(C)(C)C1(CC=CCC1)C(=O)Cl | C10H15ClO
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Ferrocenoyl-4-isopropyl-cyclohexene | [C-]1(C=CC=C1)C(=O)C1(CC=CCC1)C(C)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C15H19O.C5H5.Fe/c1-12(2)15(10-6-3-7-11-15)14(16)13-8-4-5-9-13;1-2-4-5-3-1;/h3-6,8-9,12H,7,10-11H2,1-2H3;1-5H;/q2*-1;+2
